US08685975B2
N,2-Dimethoxy-N-methyl-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)acetamide was reacted with 2-(3,5-dimethoxy-4-methylphenyl)furan according to the procedure used for the synthesis of Example 12. Purification by chromatography (EtOAc-hexanes) gave 1-(5-(3,5-dimethoxy-4-methylphenyl)furan-2-yl)-2-methoxy-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)ethanone as a yellow foam (0.148 g, 29% yield). MS: m/z 449.2 [M+H]+.

reactant | N,2-Dimethoxy-N-methyl-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)acetamide | CON(C(C(C1=CC=C(C=C1)C=1OC(=NN1)C)OC)=O)C | C14H17N3O4
reactant | 2-(3,5-dimethoxy-4-methylphenyl)furan | COC=1C=C(C=C(C1C)OC)C=1OC=CC1 | C13H14O3
product | 1-(5-(3,5-dimethoxy-4-methylphenyl)furan-2-yl)-2-methoxy-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)ethanone | 0.148 g, 29% yield | COC=1C=C(C=C(C1C)OC)C1=CC=C(O1)C(C(C1=CC=C(C=C1)C=1OC(=NN1)C)OC)=O | C25H24N2O6
